US04367229
According to Khim. Geterosikl. Soedin. 6, 765, 1975 ethyl-2-amino-4,5-dimethyl-thiophene-3-carboxylate is reacted with 2-methoxy-pyrroline in the presence of phosphoryl chloride and the obtained 2,3-dimethyl-4-oxo-5,6-tetramethylene-4H thieno[2,3-d]pyrimidine is desulphurated in an alcoholic solution wih Raney-nickel and thus 3-(1-methyl-propyl)-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine is obtained. In the complicated two-step synthesis the pyrrolo-pyrimidine derivative is obtained with a yield of 36.5%.

reactant | ethyl-2-amino-4,5-dimethyl-thiophene-3-carboxylate | C(C)OC(=O)C1=C(SC(=C1C)C)N | C9H13NO2S
reactant | 2-methoxy-pyrroline | COC=1NCCC1 | C5H9NO
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | Raney-nickel | [Ni] | Ni
product | 3-(1-methyl-propyl)-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine | yield of 36.5% | CC(CC)C1=CN=C2N(C1=O)CCC2 | C11H16N2O
